US05061706
To a solution of 1.0 g (2.94 mmol) 5-chloro-2-ethoxalylamino-3-nitrobenzotrifluoride in 75 ml tetrahydrofuran was added 25 ml dimethylformamide and 1.0 ml 25% aqueous ammonia. The mixture was hydrogenated at atm. pressure by using 100 mg 5% Pt-C as a catalyst. When the hydrogen uptake was completed, the catalyst was filtered off, and the filtrate was evaporated in vacuo. The residue was stirred with 1N aqueous hydrochloric acid to give 0.66 g (80%) of 7-chloro-1-hydroxy-5-trifluoromethylquinoxaline -2,3(1H,4H)-dione. M.P. 275° C. decomp. 1H-NMR (DMSO-d6): 11.7 (2H, m), 7.60 (1H, d), 7.43 (1H, d).

reactant | 5-chloro-2-ethoxalylamino-3-nitrobenzotrifluoride | 2.94 mmol, 1.0 g | ClC=1C=C(C(=C(C1)C(F)(F)F)NC(=O)C(=O)OCC)[N+](=O)[O-] | C11H8ClF3N2O5
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | ammonia | 1.0 ml | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
catalyst | Pt-C | 100 mg | [Pt] | Pt
product | 7-chloro-1-hydroxy-5-trifluoromethylquinoxaline -2,3(1H,4H)-dione | 0.66 g, 80% | ClC1=CC(=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C9H4ClF3N2O3
